US07825249B2
1,1,2-Tris(3-bromobenzyl)ethene
164.2 g (320 mmol) of 3-bromobenzyltriphenylphosphonium bromide were added to a suspension of 7.2 g (300 mmol) of sodium hydride in 2000 ml of toluene. This mixture was stirred at 80° C. for 3 h. A solution of 110.4 g (300 mmol) of bis(3-bromobenzyl)ketone in 500 ml of toluene was subsequently added dropwise, and the mixture was stirred at 80° C. for a further 48 h. After the reaction mixture had been cooled, the precipitate formed was filtered off with suction. The precipitate was washed with 100 ml of toluene, and the combined organic phases were evaporated to dryness. The residue was taken up in 1000 ml of n-hexane, the hexane was decanted off, and the residue was again extracted twice with 300 ml of n-hexane each time. The combined hexane phases were concentrated to a volume of about 500 ml and filtered through 200 g of aluminium oxide (activity grade 4). The filtrate was evaporated, leaving the product as a pale-yellow oil. The yield, with a purity of about 97%, was 152.3 g (292 mmol), corresponding to 97.4% of theory.

reactant | 3-bromobenzyltriphenylphosphonium bromide | 320 mmol, 164.2 g | [Br-].BrC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1
reactant | sodium hydride | 300 mmol, 7.2 g | [H-].[Na+]
reactant | bis(3-bromobenzyl)ketone | 300 mmol, 110.4 g | BrC=1C=C(CC(=O)CC2=CC(=CC=C2)Br)C=CC1 | C15H12Br2O
reactant | toluene | 2000 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1,2-Tris(3-bromobenzyl)ethene | BrC=1C=C(CC(=CCC2=CC(=CC=C2)Br)CC2=CC(=CC=C2)Br)C=CC1 | C23H19Br3
